US07105567B2
By the reaction and treatment in the same manner as in Example 2 using (4-biphenylylmethyl)(4-isopropylphenyl)amine (1.0 g) and 2,6-diisopropylphenyl isocyanate (0.88 g) as starting materials, N-(4-biphenylylmethyl)-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea (0.88 g) was obtained.

reactant | (4-biphenylylmethyl)(4-isopropylphenyl)amine | 1.0 g | C1(=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C1=CC=CC=C1 | C22H23N
reactant | 2,6-diisopropylphenyl isocyanate | 0.88 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-(4-biphenylylmethyl)-N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)urea | 0.88 g | C1(=CC=C(C=C1)CN(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)C(C)C)C1=CC=CC=C1 | C35H40N2O
